US07709649B2
A mixture of 6-chloro-5-hydroxynicotinic acid methyl ester (1.8 g, 9.6 mmol), methyl iodide (2 M solution in Et2O, 5.8 mL, 11.6 mmol) and potassium carbonate (2.0 g, 14.5 mmol) in acetone (190 mL) was refluxed for 6 h. The reaction was then concentrated via rotavap and H2O was added (100 mL). The resulting white precipitate was filtered and rinsed with additional H2O to furnish the product 6-chloro-5-methoxynicotinic acid methyl ester as a white solid (1.33 g, 68%); mp=83-85° C.; 1H NMR (400 MHz, CDCl3) δ 8.60 (d, 1H), 7.77 (d, 1H), 3.98 (s, 3H), 3.96 (s, 3H): GC-MS: Exact mass calcd for C8H8ClNO3 [M]+, 201. Found 201.

reactant | 6-chloro-5-hydroxynicotinic acid methyl ester | 9.6 mmol, 1.8 g | COC(C1=CN=C(C(=C1)O)Cl)=O | C7H6ClNO3
reactant | methyl iodide | 11.6 mmol, 2 M, 5.8 mL | CI | CH3I
reactant | potassium carbonate | 14.5 mmol, 2.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 190 mL | CC(=O)C | C3H6O
product | 6-chloro-5-methoxynicotinic acid methyl ester | 1.33 g, 68% | COC(C1=CN=C(C(=C1)OC)Cl)=O | C8H8ClNO3
